US03978071
A mixture of 6 g of ethyl 4-acetylphenylacetate, 20 ml of ethanol, 7.5 g of iodine and 5.7 g of 2-aminopyridine is heated under reflux for 3 hours. The ethanol is distilled off under reduced pressure, and the residue is extracted with ethyl acetate. The extract is washed with water, dried, and concentrated to give a reddish brown oil. The oil is column chromatographed over silica gel with chloroform as eluent, and the colorless crystals obtained from the chloroform eluate are recrystallized from a mixture of benzene and petroleum ether to give 3.0 g of ethyl 4-(imidazo[1,2-a]pyridin-2-yl)phenylacetate melting at 92°-93°C.

reactant | ethyl 4-acetylphenylacetate | 6 g | C(C)(=O)C1=CC=C(C=C1)CC(=O)OCC | C12H14O3
reactant | iodine | 7.5 g | II | I2
reactant | 2-aminopyridine | 5.7 g | NC1=NC=CC=C1 | C5H6N2
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | ethyl 4-(imidazo[1,2-a]pyridin-2-yl)phenylacetate | 3.0 g | N=1C(=CN2C1C=CC=C2)C2=CC=C(C=C2)CC(=O)OCC | C17H16N2O2
